* /home/drako/esim-workspace/wallace4bit/wallace4bit.cir

.include fulladder.sub
.include halfadder.sub
.include wallace2tree.sub
x1 /a1 /a0 /b0 /b1 /e0 /e1 net-_x1-pad7_ net-_x1-pad8_ wallace2tree
x2 /a3 /a2 /b0 /b1 net-_x2-pad5_ net-_x2-pad6_ net-_x12-pad1_ ? wallace2tree
x6 net-_x1-pad7_ net-_x2-pad5_ net-_x10-pad1_ net-_x6-pad4_ halfadder
x7 net-_x1-pad8_ net-_x2-pad6_ net-_x6-pad4_ net-_x11-pad1_ net-_x7-pad5_ fulladder
x3 /a1 /a0 /b2 /b3 net-_x10-pad2_ net-_x11-pad2_ net-_x3-pad7_ net-_x13-pad1_ wallace2tree
x4 /a3 /a2 /b2 /b3 net-_x4-pad5_ net-_x4-pad6_ net-_x4-pad7_ net-_x13-pad2_ wallace2tree
x10 net-_x10-pad1_ net-_x10-pad2_ /e2 net-_x10-pad4_ halfadder
x11 net-_x11-pad1_ net-_x11-pad2_ net-_x10-pad4_ /e3 net-_x11-pad5_ fulladder
x8 net-_x3-pad7_ net-_x4-pad5_ net-_x7-pad5_ net-_x12-pad2_ net-_x13-pad3_ fulladder
x12 net-_x12-pad1_ net-_x12-pad2_ net-_x11-pad5_ /e4 net-_x12-pad5_ fulladder
x9 net-_x13-pad4_ net-_x4-pad6_ net-_x12-pad5_ /e5 net-_x5-pad3_ fulladder
x5 net-_x4-pad7_ net-_x13-pad5_ net-_x5-pad3_ /e6 /e7 fulladder
* u1  /a0 /a1 /a2 /a3 /a0 /a1 /a2 /a3 /b0 /b0 /b2 /b2 /b1 /b1 /b3 /b3 /e1 /e0 /e6 /e7 /e2 /e3 /e4 /e5 port
x13 net-_x13-pad1_ net-_x13-pad2_ net-_x13-pad3_ net-_x13-pad4_ net-_x13-pad5_ fulladder
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
