* Subcircuit wallace2tree
.subckt wallace2tree /a1 /a0 /b0 /b1 /z0 /z1 /z2 /z3 
* /home/drako/applications/esim-2.1/library/subcircuitlibrary/wallace2tree/wallace2tree.cir
.include and_gate.sub
.include halfadder.sub
x2 /b0 /a0 /z0 and_gate
x1 /b0 /a1 net-_x1-pad3_ and_gate
x3 /b1 /a0 net-_x3-pad3_ and_gate
x4 /b1 /a1 net-_x4-pad3_ and_gate
x5 net-_x3-pad3_ net-_x1-pad3_ /z1 net-_x5-pad4_ halfadder
x6 net-_x5-pad4_ net-_x4-pad3_ /z2 /z3 halfadder
* Control Statements

.ends wallace2tree