* /home/drako/esim-workspace/wstage/wstage.cir

.include fulladder.sub
.include and_gate.sub
.include halfadder.sub
x15 net-_u1-pad24_ net-_u1-pad22_ net-_x15-pad3_ and_gate
x13 net-_u1-pad24_ net-_u1-pad19_ net-_x13-pad3_ and_gate
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ port
x16 net-_x15-pad3_ net-_u1-pad21_ net-_u1-pad23_ net-_x14-pad3_ halfadder
x14 net-_x13-pad3_ net-_u1-pad18_ net-_x14-pad3_ net-_u1-pad20_ net-_x12-pad3_ fulladder
x11 net-_u1-pad24_ net-_u1-pad16_ net-_x11-pad3_ and_gate
x12 net-_x11-pad3_ net-_u1-pad15_ net-_x12-pad3_ net-_u1-pad17_ net-_x10-pad3_ fulladder
x9 net-_u1-pad24_ net-_u1-pad13_ net-_x10-pad1_ and_gate
x10 net-_x10-pad1_ net-_u1-pad12_ net-_x10-pad3_ net-_u1-pad14_ net-_x10-pad5_ fulladder
x7 net-_u1-pad24_ net-_u1-pad10_ net-_x7-pad3_ and_gate
x8 net-_x7-pad3_ net-_u1-pad9_ net-_x10-pad5_ net-_u1-pad11_ net-_x6-pad3_ fulladder
x5 net-_u1-pad24_ net-_u1-pad7_ net-_x5-pad3_ and_gate
x6 net-_x5-pad3_ net-_u1-pad6_ net-_x6-pad3_ net-_u1-pad8_ net-_x4-pad3_ fulladder
x3 net-_u1-pad24_ net-_u1-pad4_ net-_x3-pad3_ and_gate
x4 net-_x3-pad3_ net-_u1-pad3_ net-_x4-pad3_ net-_u1-pad5_ net-_x2-pad1_ fulladder
x1 net-_u1-pad24_ net-_u1-pad1_ net-_x1-pad3_ and_gate
x2 net-_x2-pad1_ net-_x1-pad3_ net-_u1-pad2_ ? halfadder
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
