* /home/drako/esim-workspace/wstage2/wstage2.cir

.include fulladder.sub
.include and_gate.sub
.include halfadder.sub
x3 /r0 /p0 net-_x3-pad3_ and_gate
* u1  /q1 /q0 /q2 /q3 /p1 /p2 /p0 /p3 /r0 /s4 /s0 /s1 /s2 /s3 port
x5 net-_x3-pad3_ /q0 /s0 net-_x5-pad4_ halfadder
x2 /r0 /p2 net-_x2-pad3_ and_gate
x4 /r0 /p3 net-_x4-pad3_ and_gate
x1 /r0 /p1 net-_x1-pad3_ and_gate
x6 net-_x1-pad3_ /q1 net-_x5-pad4_ /s1 net-_x6-pad5_ fulladder
x7 net-_x2-pad3_ /q2 net-_x6-pad5_ /s2 net-_x7-pad5_ fulladder
x8 net-_x4-pad3_ /q3 net-_x7-pad5_ /s3 /s4 fulladder
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
